US04912102
To a solution of 1.50 g (0.0035 mol) of (±)-cis-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)-5-[2-(dimethylamino)ethyl]naphtho[1,2-b][1,4]thiazepin-4(5H)-one, in 20 ml of dry pyridine was added dropwise 1.4 g (0.0059 mol) of 3,4,5-trimethoxybenzoyl chloride at ice-bath temperature. The mixture was stirred at this temperature for 17 hours and concentrated to dryness. The residue was partitioned between methylene chloride and dilute ammonium hydroxide. The methylene chloride extracts were washed with brine and dried (MgSO4). Removal of the solvent gave a residue, which was dissolved in a mixture of acetone-methylene chloride (70:30) and chromatographed on 40 g silica gel. The column was eluted with 50 ml portions of acetone-methylene chloride (70:30). Fractions 4-15 were combined and the solvent was removed under reduced pressure to give 1.3 g of crude product, which after crystallization from ethanol afforded 1.2 g (55%) of (±)-cis-2,3-dihydro-2-(4-methoxyphenyl)-3 -[(3,4,5-trimethoxybenzoyl)oxy]-5-[2-(dimethylamino)ethyl]naphtho[1,2-b][1,4]thiazepin-4(5H)-one, mp 189°-190°.

reactant | (±)-cis-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)-5-[2-(dimethylamino)ethyl]naphtho[1,2-b][1,4]thiazepin-4(5H)-one | 0.0035 mol, 1.50 g | O[C@H]1C(N(C2=C(S[C@H]1C1=CC=C(C=C1)OC)C1=CC=CC=C1C=C2)CCN(C)C)=O | C24H26N2O3S
reactant | 3,4,5-trimethoxybenzoyl chloride | 0.0059 mol, 1.4 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | acetone methylene chloride | CC(=O)C.C(Cl)Cl
product | (±)-cis-2,3-dihydro-2-(4-methoxyphenyl)-3 -[(3,4,5-trimethoxybenzoyl)oxy]-5-[2-(dimethylamino)ethyl]naphtho[1,2-b][1,4]thiazepin-4(5H)-one | 1.2 g, 55% | COC1=CC=C(C=C1)[C@H]1[C@H](C(N(C2=C(S1)C1=CC=CC=C1C=C2)CCN(C)C)=O)OC(C2=CC(=C(C(=C2)OC)OC)OC)=O | C34H36N2O7S
